US06809094B2
4-(1H-BENZOIMIDAZOL-2-YL)-1,4-DIAZA-BICYCLO[3.2.2]NONANE
1 N Hydrochloric acid (3 mL, in methanol) was added to of 2-(1,4-diaza-bicyclo[3.2.2]non-4-yl)-benzoimidazole-1-carboxylic acid tert-butyl ester (104 mg, 0.304 mmol). The mixture was stirred at RT for 18 h and concentrated. The residue was diluted with 1 N hydrochloric acid (3 mL, aq.) and extracted with ethyl acetate (3×). The aqueous layer was treated with 6 N sodium hydroxide (3 mL, aq.) and extracted with chloroform (6×). The combined organic layers were dried (Na2SO4), filtered and concentrated to afford 50 mg (68%) of the title compound: 1H NMR (CD3OD, 400 MHz) δ 7.19 (dd, 2H, J=5.8 Hz, 3.3 Hz), 6.95 (dd, 2H, J=5.8, 2.9 Hz), 4.98 (br s, 1H), 4.27-4.24 (m, 1H), 3.83 (t, 2H, J=5.8 Hz), 3.09-2.91 (m, 6H), 2.16-2.08 (m, 2H), 1.87-1.78 (m, 2H); MS (Cl) m/z 243.3 (M+1). The hydrochloride salt was prepared by diluting in ethyl acetate and adding a 2.5 N HCl solution in ethyl acetate: mp>300° C.

reactant | Hydrochloric acid | 1 N, 3 mL | Cl | ClH
reactant | 2-(1,4-diaza-bicyclo[3.2.2]non-4-yl)-benzoimidazole-1-carboxylic acid tert-butyl ester | 0.304 mmol, 104 mg | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC=C2)N2CCN1CCC2CC1 | C19H26N4O2
product | 4-(1H-BENZOIMIDAZOL-2-YL)-1,4-DIAZA-BICYCLO[3.2.2]NONANE | 50 mg, 68% | N1C(=NC2=C1C=CC=C2)N2CCN1CCC2CC1 | C14H18N4
